US07776897B2
Thiophene-2-acetonitrile and 1,4-dichloride-2-butene were added to a DMF solution of sodium hydride washed with hexane and the whole was reacted at room temperature to obtain 1-(2-thienyl)cyclopent-3-ene-1-carbonitrile.

reactant | Thiophene-2-acetonitrile | S1C(=CC=C1)CC#N | C6H5NS
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(2-thienyl)cyclopent-3-ene-1-carbonitrile | S1C(=CC=C1)C1(CC=CC1)C#N | C10H9NS
